US07645760B2
a) 1-Chloro-2-(2-methoxyethoxy)-4-methyl-5-nitrobenzene
1,2-Dichloro-4-methyl-5-nitrobenzene (R.J. De Lang, et al. Tetrahedron (1998), 54(12), 2953-2966.) (860 mg; 4.17 mmol) was added to solution of sodium (115 mg; 5.01 mmol) dissolved in 2-methoxyethanol (15 ml). The brown reaction mixture was stirred at 100° C. for 1 h, poured on brine (50 ml) and extracted with TBME three times. The combined organic phases were evaporated and purified via chromatography (SiO2 acetone/hexanes 1/9) to yield the title compound as orange crystals (640 mg; 63%)

reactant | 1,2-Dichloro-4-methyl-5-nitrobenzene | 4.17 mmol, 860 mg | ClC1=C(C=C(C(=C1)[N+](=O)[O-])C)Cl | C7H5Cl2NO2
reactant | sodium | 5.01 mmol, 115 mg | [Na] | Na
reactant | 2-methoxyethanol | 15 ml | COCCO | C3H8O2
product | 1-Chloro-2-(2-methoxyethoxy)-4-methyl-5-nitrobenzene | 640 mg, 63% | ClC1=C(C=C(C(=C1)[N+](=O)[O-])C)OCCOC | C10H12ClNO4
